US04332611
N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-2-(α-hydroxyethyl)benzenesulfonamide
A mixture containing 1.0 g of N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]-2-methylcarbonylbenzenesulfonamide in 50 ml of anhydrous THF is treated with 0.1 g of lithium aluminum hydride at 25° under a nitrogen atmosphere. The mixture is stirred for 4 hours at 25° and is then poured into 500 ml of water containing 10 ml of concentrated hydrochloric acid. The precipitated oil is extracted into methylene chloride and the solid on evaporation is purified by column chromatography on silica gel.

reactant | N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]-2-methylcarbonylbenzenesulfonamide | 1.0 g | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(=O)C | C15H16N4O6S
reactant | lithium aluminum hydride | 0.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 500 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-2-(α-hydroxyethyl)benzenesulfonamide | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(C)O | C15H18N4O6S
